US09085581B2
To a 3-neck, 5L RB flask equipped w/a mechanical stirrer, temperature probe, and a reflux condenser was added potassium 7-(benzyloxy)-2-(ethoxycarbonyl)-3H-pyrrolo[1,2-a]indol-1-olate (206 g, 530 mmol) followed by AcOH:H2O (2:1, v/v, 2.65 L). The mixture was heated to reflux for 40 h and cooled to room temperature. Upon cooling a light brown precipitate formed. The mixtures from all four batches were combined and filtered. The solid was washed with H2O and hexanes. The filtrates were further diluted with water (1 L) and an additional solid precipitated. The 2nd crop was filtered and the solid washed with water and hexanes. Both crops were combined and dried in a vacuum oven (50° C., 2 Ton) to give 7-(benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one (493 g from all 4 batches, 1.72 mol, 81% yield) as a brown solid. Exact mass calculated for C18H15NO2: 277.1, found: LCMS m/z=278.2, [M+H+]; 1H NMR (400 MHz, CDCl3) δ ppm 3.20 (t, J=6.4 Hz, 2 H), 4.40 (t, J=6.4 Hz, 2 H), 5.11 (s, 2 H), 6.91 (s, 1 H), 7.13 (dd, J1=9.0, J2=2.3 Hz, 1 H), 7.20 (d, J=2.3 Hz, 1 H), 7.33 (m, 2 H), 7.39 (m, 2 H), 7.47 (m, 2 H).

reactant | potassium 7-(benzyloxy)-2-(ethoxycarbonyl)-3H-pyrrolo[1,2-a]indol-1-olate | 530 mmol, 206 g | C(C1=CC=CC=C1)OC1=CC=2C=C3N(C2C=C1)CC(=C3[O-])C(=O)OCC.[K+]
solvent | AcOH H2O | 2.65 L | CC(=O)O.O
product | 7-(benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-one | 81% yield | C(C1=CC=CC=C1)OC1=CC=2C=C3N(C2C=C1)CCC3=O | C18H15NO2
